US09079909B2
A solution of N-(3-(4-fluorophenyl)-1-(2-hydroxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide (382 mg, 1.05 mmol) in ethanol (4 mL) and 25% NaOH (6 mL) was heated to 83° C. for 16 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was washed with ethyl acetate twice and the organic phases combined, dried over MgSO4, filtered and evaporated, purification using chromatography (silica gel, gradient 0 to 10% methanol/CH2Cl2) gave 2-(5-amino-3-(4-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)ethanol as a solid (122 mg), which was used as such in the subsequent step.

reactant | N-(3-(4-fluorophenyl)-1-(2-hydroxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 1.05 mmol, 382 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)NC(C)=O)CCO | C21H18FN3O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | NaOH | 6 mL | [OH-].[Na+]
product | 2-(5-amino-3-(4-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)ethanol | 122 mg | NC1=C(C(=NN1CCO)C1=CC=C(C=C1)F)C#CC1=CC=CC=C1 | C19H16FN3O
